US06737425B1
63-2) 1-Benzyl-4-[2-(4-fluorophenylaminocarbonyl)ethyl]piperazine
N-Acryloyl-4-fluoroaniline (12.2 g) and 1-benzyl piperazine (19.7 g) were dissolved in methanol (150 ml), and the mixture was stirred overnight at room temperature. The reaction mixture was evaporated, and the residue was purified by Cromatorex NH silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (25 g, 100%) as a colorless oil.

reactant | N-Acryloyl-4-fluoroaniline | 12.2 g | C(C=C)(=O)NC1=CC=C(C=C1)F | C9H8FNO
reactant | 1-benzyl piperazine | 19.7 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | methanol | 150 ml | CO | CH4O
product | 1-Benzyl-4-[2-(4-fluorophenylaminocarbonyl)ethyl]piperazine | 25 g, 100% | C(C1=CC=CC=C1)N1CCN(CC1)CCC(=O)NC1=CC=C(C=C1)F | C20H24FN3O
